US08258130B2
A suspension of 2-(pyridine-2-yl)-pyrimidine-5-carbonyl chloride (0.44 g) in EtOAc (20 mL) is added portion wise to a mixture of 1-amino-4-fluoroindole (0.30 g) and K2CO3 (0.276 g) in EtOAc (10 mL)/water (20 mL) and the resulting mixture is stirred at rt for 24 h. The aqueous phase is separated and extracted twice with EtOAc. The combined organic layer is washed with water and brine, dried (MgSO4), filtered and concentration in vacuo. The residue is purified by silica gel chromatography eluting with EtOAc to afford 2-(pyridin-2-yl)pyrimidine-5-carboxylic acid-(4-fluoroindol-1-yl)amide (0.115 g, 17%) as a solid. MS: 334 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 6.65 (d, 1H), 6.89-6.95 (q, 1H), 7.16-7.23 (m, 1H), 7.32-7.35 (d, 1H), 7.57 (d, 1H), 7.57-7.64 (m, 1H), 8.02-8.08 (t, 1H), 8.50-8.52 (d, 1H), 8.82-8.83 (d, 1H), 9.49 (s, 2H), 12.30 (s, 1H).

reactant | 2-(pyridine-2-yl)-pyrimidine-5-carbonyl chloride | 0.44 g | N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)Cl | C10H6ClN3O
reactant | 1-amino-4-fluoroindole | 0.30 g | NN1C=CC2=C(C=CC=C12)F | C8H7FN2
reactant | K2CO3 | 0.276 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 20 mL | O | H2O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-(pyridin-2-yl)pyrimidine-5-carboxylic acid-(4-fluoroindol-1-yl)amide | 0.115 g, 17% | FC1=C2C=CN(C2=CC=C1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1 | C18H12FN5O
